US08530461B2
b) (S)-1-{4-[3-(4-Cyclopropylmethoxy-phenoxy)-azetidin-1-yl]-phenyl}-ethylamine
130 mg (0.30 mmol) (1-{4-[3-(4-cyclopropylmethoxy-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-carbamic acid tert-butyl ester are added to 2 mL DCM and the mixture is cooled to 0° C. 0.03 mL TFA is added and stirring is continued for 1 h at 0° C. The solution as such is used directly for subsequent reactions.

reactant | (1-{4-[3-(4-cyclopropylmethoxy-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-carbamic acid tert-butyl ester | 0.30 mmol, 130 mg | C(C)(C)(C)OC(NC(C)C1=CC=C(C=C1)N1CC(C1)OC1=CC=C(C=C1)OCC1CC1)=O | C26H34N2O4
reactant | TFA | 0.03 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-{4-[3-(4-Cyclopropylmethoxy-phenoxy)-azetidin-1-yl]-phenyl}-ethylamine | C1(CC1)COC1=CC=C(OC2CN(C2)C2=CC=C(C=C2)[C@H](C)N)C=C1 | C21H26N2O2
